US04873084
Following the procedure of Example 5, but substituting ammoniumpentaborate with 5.26 g (0.02 mole) ammoniumtetraborate which upon reacting with 4.88 g (0.02 mole) bariumchloride provided bariumtriborate in good yield. The composition was proven by barium and boron analyses (determined as boric acid) and IR spectrum.

reactant | ammoniumtetraborate | 0.02 mole, 5.26 g | B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+].[NH4+]
reactant | bariumchloride | 0.02 mole, 4.88 g | [Cl-].[Ba+2].[Cl-]
product | bariumtriborate | B([O-])([O-])O.B(O)(O)O.B(O)(O)O.[Ba+2] | InChI=1S/2BH3O3.BHO3.Ba/c3*2-1(3)4;/h2*2-4H;2H;/q;;-2;+2
